US04278589
Using the general procedure of Example 4, 13.6 grams (0.34 mole) of sodium hydroxide pellets were dissolved in 145 ml of methanol followed by the addition of 16.5 grams (0.05 mole) of 2,4-di-(α,α-dimethylbenzyl)phenol and an additional 20 ml of methanol. The resulting solution was cooled to 2° C. Meanwhile a solution of o-nitrobenzenediazonium chloride was prepared by diazotizing a mixture of 8.3 grams (0.06 mole) of o-nitroaniline and 17.3 grams of concentrated hydrochloric acid and 6 ml of water with a solution of 4.3 grams of sodium nitrite in 8 ml of water. The diazonium solution was added gradually to the alkaline solution over a two-hour period at 2° C. The resulting deep purple reaction mixture was stirred for 30 minutes at 2° C., and then acidified with 20 ml of glacial acetic acid.

reactant | sodium hydroxide | 0.34 mole, 13.6 grams | [OH-].[Na+]
reactant | 2,4-di-(α,α-dimethylbenzyl)phenol | 0.05 mole, 16.5 grams | CC(C1=CC=CC=C1)(C)C1=C(C=CC(=C1)C(C1=CC=CC=C1)(C)C)O | C24H26O
reactant | o-nitroaniline | 0.06 mole, 8.3 grams | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | hydrochloric acid | 17.3 grams | Cl | ClH
reactant | sodium nitrite | 4.3 grams | N(=O)[O-].[Na+]
solvent | methanol | 145 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
solvent | water | 6 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | o-nitrobenzenediazonium chloride | [Cl-].[N+](=O)([O-])C1=C(C=CC=C1)[N+]#N | InChI=1S/C6H4N3O2.ClH/c7-8-5-3-1-2-4-6(5)9(10)11;/h1-4H;1H/q+1;/p-1
